US04464300
A solution of 1.075 g of 7-chloro-5-phenyl-1,3-dihydro-2H-1-benzazepin-2-one in 20 ml of dry tetrahydrofuran is treated with 0.23 g of sodium hydride (50% dispersion in mineral oil) and stirred at 60° for 1 hour. The mixture is then cooled to room temperature, treated with 1.53 g of bis-(4-morpholinyl)phosphinic acid chloride and stirred at this temperature for a further 2 hours. A solution of 0.593 g of acetic acid hydrazide in 50 ml of n-butanol is subsequently added thereto, the mixture is heated to boiling under reflux for 1 hour and then evaporated in vacuo. The residue is partitioned between water and methylene chloride. The methylene chloride solution is evaporated and the residue is chromatographed on 100 g of aluminium oxide (activity grade III). Various impurities and starting material are eluted successively with benzene and ethyl acetate/hexane (1:1). After elution with chloroform/ethanol (96:4) and recrystallization of the crude product from ethyl acetate/benzene/n-hexane, there is obtained 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1]benzazepine of melting point 235°.

reactant | 7-chloro-5-phenyl-1,3-dihydro-2H-1-benzazepin-2-one | 1.075 g | ClC=1C=CC2=C(C(=CCC(N2)=O)C2=CC=CC=C2)C1 | C16H12ClNO
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | bis-(4-morpholinyl)phosphinic acid chloride | 1.53 g | N1(CCOCC1)P(=O)(N1CCOCC1)Cl | C8H16ClN2O3P
reactant | acetic acid hydrazide | 0.593 g | C(C)(=O)NN | C2H6N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1]benzazepine | ClC=1C=CC2=C(C(=CCC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C18H14ClN3
